Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
right labial abscess
 
Major Surgical or Invasive Procedure:
IV antibiotics
Incision and Drainage of labial abscess

 
History of Present Illness:
___ P3 female with h/o non-Hodgkins lymphoma presents to
the ___ ED with a right labial abscess.  Patient initially
noticed a pimple on her right labium one week ago, with 
associated
labial itching.  Over the last three days it has been enlarging. 

She tried placing warm compresses over the area, with no
improvement.  

In the last day, the area has become increasing swollen,
erythematous, and painful.  It is now difficult to walk.  She
denies drainage from the area.  Denies fever or chills.  Denies
abdominal pain.  Denies excessive vaginal discharge.  

Patient has a history of a MRSA infection of an abdominal boil
___ years ago.  She denies h/o diabetes and states that recent
fasting blood sugar was 89.  Denies current immunosuppression,
her non-Hogkin's lymphoma has been in remission since ___
 
Past Medical History:
ObHx:
SVD x 3, no complications

GynHx:
Postmenopausal since age ___
s/p tubal ligation
denies h/o abnl paps
denies h/o STIs

PMH:
Cerebral aneurysm s/p multiple coil and stent procedures
h/o Non Hodgkins Lymphoma, remission since ___.
Migraines
Trigeminal neuralgia
Anterior outlet syndrome, s/p anterior scalenotomy
GERD 
OA
Carpal tunnel
MRSA positive boil on abdomen

PSH:
Ex-lap for right-sided pain, tubal ligation
Ex-lap for lymphoma
Ex-lap for ruptured Meckel's diverticulum
Anterior fusion C5-6
Anterior scalenotomy

 
Social History:
___
Family History:
NC
 
Physical Exam:
PE: VS: T 99.4  BP 132/69  HR 100  RR 18  O2Sat 98% RA
NAD
Abd soft, obese, NT, cutaneous candidiasis in bilateral groin
folds
Right labium majorus 8cm x 5cm area of significant induration,
warm, extensive erythema (across entire right labium, mons, and
lower abdomen; from 4cm above pubic symphysis to buttocks), no
obvious area of fluctance, no drainage, no ulceration; no
Bartholin's cyst; moderately tender to palpation; no crepitus
Left labium normal appearing, soft, no erythema, no induration, 
no
drainage

 
Pertinent Results:
___ 02:10PM   WBC-14.6*# RBC-4.08* HGB-12.8 HCT-37.9 MCV-93 
MCH-31.2 MCHC-33.6 RDW-13.1
HA1C: 6.0
 
Brief Hospital Course:
Patient was admitted to the surgical floor for IV antibiotics 
(Vancomycin/Unasyn) and pain control for treatment of labial 
cellulitis. There was concern for abscess despite ultrasound 
showing labial edema, without evidence of drainable fluid 
collection. She was afebrile for 24 hours but her pain and exam 
did not improve after 24 hours of IV antibiotics so a bedside 
incision and drainage was attempted. A fluid collection was 
identified and exlpored. It was found to have significant depth 
which was not ammendable to bedside drainage.  the patient was 
then taken to the OR for a complete incision and drainage. A 
large pocket of purulent fluid was drained, oculations were 
broken up, and a  Foley left in wound to drain the cavity. The 
drainage was sent for culture.
A blood culture that was drawn in the emergency room returned 
positive ___ bottles) for Coag negative Staph which was 
presumed to be a Staph epi contaminant. All further blood 
cultures were negative.
She was kept in the hospital for 48 hours more until the 
sensitivities returned from her would culture. She remained 
afebrile and her pain was significantly decreased after the 
procedure. 
The wound was found to be caused by MRSA but was sensitive to 
Bactrim. She was sent home on a 2 week course of Bactrim and 
will follow-up in 2 weeks in ___ clinic.
 
Medications on Admission:
Neurotin 300mg qam, 600mg qpm
Omeprazole 20mg qdaily
ASA 325mg qdaily
HCTZ 25mg BID
Etodolac 500mg BID
MVI

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain, fever.  
2. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain, fever.
Disp:*35 Tablet(s)* Refills:*1*
3. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q AM ().  
4. Gabapentin 300 mg Capsule Sig: Three (3) Capsule PO HS (at 
bedtime).  
5. Etodolac 500 mg Tablet Sig: One (1) Tablet PO bid ().  
6. Hydrocodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
7. Venlafaxine 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).  
9. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
11. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q AM ().  
12. Gabapentin 300 mg Capsule Sig: Three (3) Capsule PO HS (at 
bedtime).  
13. Etodolac 500 mg Tablet Sig: One (1) Tablet PO bid ().  
14. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Labial cellulitis/abscess

 
Discharge Condition:
Stable, afebrile

 
Discharge Instructions:
Call your doctor for:
* fever > 100.4
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks. 
* You may eat a regular diet.

 
Followup Instructions:
___